US09428505B2
A mixture of (E)-1-(3,5-dimethyl-4-(2-((4-oxo-2-(3-(trifluoromethyl)phenyl)-1,3,8-triazaspiro[4.5]deca-1-en-8-yl)sulfonyl)vinyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione (195 mg, 0.316 mmol) and palladium hydroxide/carbon (20% Pd) (wetted with approximately 50% water) (195 mg, 0.139 mmol) in 2,2,2-trifluoroethanol (6 mL) was stirred at room temperature for 14 hours under hydrogen atmosphere. The mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate-hexane) to afford 1-(3,5-dimethyl-4-(2-((4-oxo-2-(3-(trifluoromethyl)phenyl)-1,3,8-triazaspiro[4.5]deca-1-en-8-yl) sulfonyl)ethyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione (121 mg, 62%).

reactant | (E)-1-(3,5-dimethyl-4-(2-((4-oxo-2-(3-(trifluoromethyl)phenyl)-1,3,8-triazaspiro[4.5]deca-1-en-8-yl)sulfonyl)vinyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione | 0.316 mmol, 195 mg | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)C(F)(F)F)=O)CC1)C)N1C(NC(C1(C)C)=O)=O | C29H30F3N5O5S
solvent | 2,2,2-trifluoroethanol | 6 mL | FC(CO)(F)F | C2H3F3O
catalyst | palladium hydroxide/carbon | 0.139 mmol, 195 mg | [OH-].[OH-].[Pd+2]
product | 1-(3,5-dimethyl-4-(2-((4-oxo-2-(3-(trifluoromethyl)phenyl)-1,3,8-triazaspiro[4.5]deca-1-en-8-yl) sulfonyl)ethyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione | 121 mg, 62% | CC=1C=C(C=C(C1CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)C(F)(F)F)=O)CC1)C)N1C(NC(C1(C)C)=O)=O | C29H32F3N5O5S
